US08283354B2
A mixture of (S)-tert-butyl 3-(aminomethyl)pyrrolidine-1-carboxylate (1.0 g, 5.0 mmol) and 50 mL THF was cooled in an ice bath. To this was added benzyl chloroformate (0.77 mL, 5.5 mmol), followed by triethylamine (1.39 mL, 10 mmol). After removing the ice bath, the reaction was stirred for 4 h. The mixture was poured into ice water and extracted with EtOAc. The organic extracts were washed with water, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using EtOAc in hexanes (0-40%) gave benzyl((S)-1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylcarbamate (1.29 g, 77%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.39-7.28 (m, 5H), 5.10 (s, 2H), 4.87 (s, 1H), 3.52-2.95 (m, 6H), 2.41-2.35 (m, 1H), 2.10-1.79 (m, 2H), 1.45 (s, 9H).

reactant | (S)-tert-butyl 3-(aminomethyl)pyrrolidine-1-carboxylate | 5.0 mmol, 1.0 g | NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | benzyl chloroformate | 5.5 mmol, 0.77 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 10 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | benzyl((S)-1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylcarbamate | 1.29 g, 77% | C(C1=CC=CC=C1)OC(NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C18H26N2O4
